US04145364
Step A: Preparation of 2-fluorophenylazide
A mixture of 4.44g. (0.04 mole) of 2-fluoroaniline in 16 ml. of water and 9 ml. of concentrated HCl, kept at 0°-5° C., was treated with a solution of 2.90g. (0.04 mole) of NaNO2 in 10 ml. of water. The reaction mixture was aged for one-half hour at 0°-5° C. and there was then added slowly to the mixture a solution of 2.6g. (0.04 mole) of NaN3 in 10 ml. of water. The reaction mixture was then allowed to slowly reach room temperature, and it was noted that a gas was evolved. There was then added 40 ml. of petroleum ether, and the reaction mixture was shaken well, after which it was observed to separate into two separate layers. The yellow petroleum ether layer was separated, dried over MgSO4, and concentrated under reduced pressure at a temperature of about 30° C. There was produced 5.5g. of a yellow oil and the structure of the final product was confirmed by IR.

reactant | 2-fluoroaniline | 0.04 mole | FC1=C(N)C=CC=C1 | C6H6FN
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.04 mole | N(=O)[O-].[Na+]
reactant | NaN3 | 0.04 mole | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
product | 2-fluorophenylazide | FC1=C(C=CC=C1)N=[N+]=[N-] | C6H4FN3
